US06054605
Methyl 2,3-dichloro-6-trifluoromethylbenzoate (Compound No. 55)
To a solution of 1.04 g of 2,3-dichloro-6-trifluoromethylbenzoic acid in 10 ml of toluene was added 0.71 g of thionyl chloride and 1 drop of pyridine and the mixture was heated at reflux for 3 hours. After cooling, the reaction mixture was concentrated under reduced pressure, and 2,3-dichloro-6-trifluoromethylbenzoyl chloride obtained was added to a solution which is prepared by dissolving 28% methanol solution of 0.77 g of sodium methoxide into 10 ml of methanol at a temperature of from 5 to 10° C., and the solution was stirred for 2 hours at room temperature. After condensing the reaction mixture, it was extracted with ether. The extract was washed with IN-aqueous hydrochloric acid, water and saturated saline solution in series and then dried over anhydrous magnesium sulfate. The solvent was distilled under reduced pressure, and the oily substance obtained was purified by using silica gel column chromatography to obtain 0.89 g of the title compound (nD 23.3-1.4801).

reactant | 2,3-dichloro-6-trifluoromethylbenzoic acid | 1.04 g | ClC1=C(C(=O)O)C(=CC=C1Cl)C(F)(F)F | C8H3Cl2F3O2
reactant | thionyl chloride | 0.71 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
reactant | sodium methoxide | 0.77 g | C[O-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
product | Methyl 2,3-dichloro-6-trifluoromethylbenzoate | 0.89 g | ClC1=C(C(=O)OC)C(=CC=C1Cl)C(F)(F)F | C9H5Cl2F3O2
